US07589114B2
Synthesis of (S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid isopropylamide
O-Benzotriazol-1-yl-N,N,N′,N′,-tetramethyluronium tetrafluoroborate (0.016 g), (i-Pr)2EtN (0.013 mL) and (S)-1-[(R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid (0.023 g, 0.04 mmol) were combined in CH2Cl2 (2 mL) at room temperature. Isopropyl amine (0.0064 mL) was then added and the reaction was stirred for 18 h. The reaction was diluted with CH2Cl2 and poured into saturated aqueous NH4Cl.

reactant | O-Benzotriazol-1-yl-N,N,N′,N′,-tetramethyluronium tetrafluoroborate | 0.016 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (i-Pr)2EtN | 0.013 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (S)-1-[(R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid | 0.04 mmol, 0.023 g | ClC=1C=C(C=C(C1)Cl)N1C([C@](N2C1=NC=C2S(=O)(=O)N2[C@@H](CC2)C(=O)O)(CC2=CC=C(C=C2)C=2C=NC=NC2)C)=O | C27H22Cl2N6O5S
reactant | Isopropyl amine | 0.0064 mL | C(C)(C)N | C3H9N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-[(R)-7-(3,5-Dichloro-phenyl)-5-methyl-6-oxo-5-(4-pyrimidin-5-yl-benzyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-sulfonyl]-azetidine-2-carboxylic acid isopropylamide | C(C)(C)NC(=O)[C@H]1N(CC1)S(=O)(=O)C1=CN=C2N1[C@@](C(N2C2=CC(=CC(=C2)Cl)Cl)=O)(CC2=CC=C(C=C2)C=2C=NC=NC2)C | C30H29Cl2N7O4S
